US08309562B2
(2-Fluoro-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine
A mixture of 2-chloro-N-(4-methoxyphenyl)-N-methylquinazolin-4-amine 0.150 g (0.5 mmol) and NH4F 0.5 g in 1-methyl-2-pyrrolidinone 3 mL was stirred at 120° C. for 16 h. The reaction mixture was diluted with CH2Cl2 10 mL and directly subjected to gradient column chromatography (EtOAc/hexanes, 0% to 100%) to give the crude titled compound product in 10% yield, which was further purified with preparative HPLC. 1H NMR (CD3OD, 400 MHz): δ 7.48-7.43 (m, 1H), 7.25-7.19 (m, 3H), 7.02 (d, 2H, J=9.0 Hz), 6.82-6.73 (m, 2H), 3.84 (s, 3H), 3.58 (s, 3H). 19F NMR (CD3OD):−77 (s). m/e: 284.1 (M+1).

reactant | 2-chloro-N-(4-methoxyphenyl)-N-methylquinazolin-4-amine | 0.5 mmol, 0.150 g | ClC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC | C16H14ClN3O
reactant | NH4F | 0.5 g | [NH4+].[F-]
solvent | 1-methyl-2-pyrrolidinone | 3 mL | CN1C(CCC1)=O | C5H9NO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (2-Fluoro-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine | 10% yield | FC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC | C16H14FN3O
